US07799775B2
Dissolving 853 mg of 2-piperazin-1-ylquinoline as prepared in above Step 1-1-A in 5 ml of acetone, 5 ml of an aqueous solution containing 160 mg of sodium hydroxide was added to the solution, and into which 0.5 ml of 1-bromo-3-chloropropane was dropped, followed by stirring for an overnight at room temperature. Then diethyl ether was added, followed by washing with saturated aqueous sodium hydrogencarbonate solution, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified on silica gel column chromatography (chloroform:methanol=50:1) to provide 1.10 g (95%) of 2-[4-(3-chloropropyl)piperazin-1-yl]quinoline.

reactant | 2-piperazin-1-ylquinoline | 853 mg | N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | C13H15N3
reactant | sodium hydroxide | 160 mg | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | 0.5 ml | BrCCCCl | C3H6BrCl
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-[4-(3-chloropropyl)piperazin-1-yl]quinoline | 1.10 g, 95% | ClCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C16H20ClN3
